US05068334
1-Ethyl-3,4,7,8-tetrahydro-2,5(1H,6H)-quinolinedione
21.2 g (0.1 mol) of 2-(2-carbethoxy-ethyl)-cyclohexan- 1,3-dione and 200 ml of 24% ethanolic ethylamine solution are heated to 180° C. in a stirred autoclave for 3 hours. The reaction solution is evaporated down using a rotary evaporator and the residue is chromatographed on a silica gel column with cyclohexane/ethyl acetate (1:1).

reactant | 2-(2-carbethoxy-ethyl)-cyclohexan- 1,3-dione | 0.1 mol, 21.2 g | C(=O)(OCC)CCC1C(CCCC1=O)=O | C11H16O4
reactant | ethylamine | 200 ml | C(C)N | C2H7N
product | 1-Ethyl-3,4,7,8-tetrahydro-2,5(1H,6H)-quinolinedione | C(C)N1C(CCC=2C(CCCC12)=O)=O | C11H15NO2
